US04716248
5.1 Parts of 2-amino-6-(4-amino-3-chlorophenyl)-6-methylheptane were hydrogenated and worked up to the procedure of Example 1 using 60 parts of 1N aqueous hydrochloric acid and 1.0 parts of Nishimura catalyst. The hydrogenation, which ceased after 48 hours and which represented a 126% theory uptake, gave on distillation 4.0 parts of cis and trans 2-amino-6-(4-aminocyclohexyl)-6-methylheptane b16 160°-5°. Spectroscopic analysis showed that the ratio of cis and trans isomers was 3 to 1 parts respectively.

reactant | 2-amino-6-(4-amino-3-chlorophenyl)-6-methylheptane | NC(C)CCCC(C)(C)C1=CC(=C(C=C1)N)Cl | C14H23ClN2
reactant | hydrochloric acid | 1N | Cl | ClH
product | trans 2-amino-6-(4-aminocyclohexyl)-6-methylheptane | NC(C)CCCC(C)(C)[C@@H]1CC[C@H](CC1)N | C14H30N2
